US05210352
The process for producing 1-methyl fluorene by the reduction of 1-hydroxymethyl fluorene involves four steps when one uses fluoranthene as the starting material. The first step involves the conversion of the fluoranthene to 1-carboxylic acid fluorenone, preferably by the reaction of the fluoranthene with hydrogen peroxide in acetic acid. The resulting 1-carboxylic acid fluorenone is then reduced with hydrogen using a palladium carbon catalyst in the same manner as previously described. The resulting 1-carboxylic acid fluorene is then reduced using a lithium aluminum hydride/aluminum chloride catalyst to obtain the 1-hydroxymethyl fluorene which is then reduced with hydrogen in the presence of a palladium carbon catalyst.

reactant | fluoranthene | C1=CC=C2C=CC=C3C4=CC=CC=C4C1=C23 | C16H10
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | [C].[Pd]
catalyst | lithium aluminum hydride aluminum chloride | [H-].[Al+3].[Li+].[H-].[H-].[H-].[Cl-].[Al+3].[Cl-].[Cl-]
product | 1-hydroxymethyl fluorene | OCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12O
